US03931168
1-(p-fluorocinnamamido)hydantoin
A mixture of p-fluorocinnamic acid (36 g, 0.22 mole) in SOCl2 (75 ml) was heated under reflux with stirring for 1 hour. The excess SOCl2 was removed in vacuo and the residue fluxhed with benzene. To the resulting acid chloride was added 1-aminohydantoin hydrochloride (39 g, 0.26 mole) and 250 ml of pyridine and the resulting reaction mixture was heated on the steam bath for 3 hours. The mixture was poured onto HCl/ice and the product allowed to crystallize.

reactant | p-fluorocinnamic acid | 0.22 mole, 36 g | FC1=CC=C(C=CC(=O)O)C=C1 | C9H7FO2
reactant | 1-aminohydantoin hydrochloride | 0.26 mole, 39 g | Cl.NN1C(=O)NC(=O)C1
reactant | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
solvent | SOCl2 | 75 ml | O=S(Cl)Cl | Cl2OS
product | 1-(p-fluorocinnamamido)hydantoin | FC1=CC=C(C=CC(=O)NN2C(=O)NC(=O)C2)C=C1 | C12H10FN3O3
